US09163033B2
(±)-2-bromo-N-(phenylmethoxy)propanamide (4a):
Prepared in 53% yield (631 mg, 2.44 mmol) from the reaction of 2-bromo-2-methylpropanoyl bromide (1.0 g, 4.6 mmol) with O-benzylhydroxylamine hydrochloride (742 mg, 4.6 mmol) via general procedure A. Rf=0.28 (3:1, hexanes:EtOAc); mp=75.3-77.4° C.; 1H-NMR (500 MHz, CDCl3): δ 9.61 (br s, 1H), 7.44-7.26 (m, 5H), 4.90 (s, 2H), 4.31 (q, J=7.7 Hz, 1H), and 1.77 (d, J=6.4 Hz, 3H); 13C-NMR (126 MHz, CDCl3): δ 167.5, 134.8, 129.45, 128.9, 128.7, 78.3, 40.5, and 22.2; FT-IR (neat) 3110 (br), 2924, 2852, 1675 (s), 1508, 1495, 1453, 1364, 1188, 1038, 1023 cm-1;

reactant | 2-bromo-2-methylpropanoyl bromide | 4.6 mmol, 1.0 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | O-benzylhydroxylamine hydrochloride | 4.6 mmol, 742 mg | Cl.C(C1=CC=CC=C1)ON
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-bromo-N-(phenylmethoxy)propanamide | 53% yield | BrC(C(=O)NOCC1=CC=CC=C1)C | C10H12BrNO2
